### PR TITLE
[Merged by Bors] -  feat(FieldTheory/Galois): normal basis theorem 

### PR DESCRIPTION
**Pull request by alreadydone**
Co-authored-by: Madison Crim @maddycrim 
Co-authored-by: Aaron Liu @plp127 
Co-authored-by: Justus Springer @justus-springer 

from [*Formalizing Class Field Theory*](https://www.claymath.org/events/formalizing-class-field-theory/)

---

- [x] depends on: #27355
- [x] depends on: #27368

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/Galois/NormalBasis.lean [hunk 1]
```diff
@@ -0,0 +1,127 @@
...
+
+variable (K L : Type*) [Field K] [Field L] [Algebra K L]
+
+open Polynomial FiniteField Module Submodule LinearMap in
+-- [ConradLinearChar] Theorem 3.7.
+private theorem exists_linearIndependent_algEquiv_apply_of_finite [Finite L] :
+    ∃ x : L, LinearIndependent K fun σ : L ≃ₐ[K] L ↦ σ x := by
+  have := Finite.of_injective _ (algebraMap K L).injective
+  have := Fintype.ofFinite K
+  /- Since `K[X]` is a PID and `L` is a finitely generated `K[X]`-module (with `X` acting as
```
Comment (dagurtomas) [inline Mathlib/FieldTheory/Galois/NormalBasis.lean:32]:
```suggestion
  letI := Fintype.ofFinite K
  /- Since `K[X]` is a PID and `L` is a finitely generated `K[X]`-module (with `X` acting as
```

File: Mathlib/FieldTheory/Galois/NormalBasis.lean [hunk 2]
```diff
@@ -0,0 +1,127 @@
...
+    the Frobenius automorphism), there exists `x : L` whose `K[X]`-annihilator is equal to the
+    `K[X]`-annihilator of `L`, which is generated by `X ^ [L : K] - 1`. -/
+  have ⟨x, hx⟩ := exists_ker_toSpanSingleton_eq_annihilator K[X]
+    (AEval' (frobeniusAlgHom K L).toLinearMap)
```
Comment (dagurtomas) [inline Mathlib/FieldTheory/Galois/NormalBasis.lean]:
```suggestion
  obtain ⟨x, hx⟩ := exists_ker_toSpanSingleton_eq_annihilator K[X]
    (AEval' (frobeniusAlgHom K L).toLinearMap)
```

File: Mathlib/FieldTheory/Galois/NormalBasis.lean [hunk 3]
```diff
@@ -0,0 +1,127 @@
...
+  refine (LinearEquiv.eq_symm_apply _).mpr (.symm <| (liftQ_apply ..).trans ?_)
+  rw [toSpanSingleton_apply, AEval'.X_pow_smul_of, End.smul_def, End.coe_pow]
+  rfl
+
+variable [FiniteDimensional K L]
+
+-- [ConradLinearChar] Theorem 3.6.
+private theorem exists_linearIndependent_algEquiv_apply_of_infinite [Infinite K] :
+    ∃ x : L, LinearIndependent K fun σ : L ≃ₐ[K] L ↦ σ x := by
+  classical
```
Comment (dagurtomas) [inline Mathlib/FieldTheory/Galois/NormalBasis.lean:60]:
```suggestion
open scoped Classical in
-- [ConradLinearChar] Theorem 3.6.
private theorem exists_linearIndependent_algEquiv_apply_of_infinite [Infinite K] :
    ∃ x : L, LinearIndependent K fun σ : L ≃ₐ[K] L ↦ σ x := by
```

File: Mathlib/FieldTheory/Galois/NormalBasis.lean [hunk 4]
```diff
@@ -0,0 +1,127 @@
...
+  /- Choose a basis `e` of `L` over `K` and form the matrix `M` with entries
+    `∑ₖ i⁻¹j(eₖ)Xₖ` where `i,j ∈ Gal(L/K)` and `Xₖ`s are independent variables. -/
+  have e := Module.Free.chooseBasis K L
```
Comment (dagurtomas) [inline Mathlib/FieldTheory/Galois/NormalBasis.lean:63]:
```suggestion
  let e := Module.Free.chooseBasis K L
```

File: Mathlib/FieldTheory/Galois/NormalBasis.lean (hunk 1 above)
Comment (plp127) [reply Mathlib/FieldTheory/Galois/NormalBasis.lean:32]: Why

File: Mathlib/FieldTheory/Galois/NormalBasis.lean (hunk 4 above)
Comment (plp127) [reply Mathlib/FieldTheory/Galois/NormalBasis.lean:63]: Why

File: Mathlib/FieldTheory/Galois/NormalBasis.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/Galois/NormalBasis.lean:32]: My personal principle is to use `have` when the data is irrelevant, to simplify the infoview and for potential performance boost. (If you're worried that beginners confuse `have` with `let` that's the job of [lean4#3559](https://github.com/leanprover/lean4/issues/3559).)

File: Mathlib/FieldTheory/Galois/NormalBasis.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/Galois/NormalBasis.lean]: This probably simplifies infoview a bit (didn't check) so I'll take it.

File: Mathlib/FieldTheory/Galois/NormalBasis.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/Galois/NormalBasis.lean:60]: This potentially changes the statement (although in this case it doesn't, but it takes time to check, so it has a confounding effect) and it's also longer, so I'm not sure why you think it's better ...

File: Mathlib/FieldTheory/Galois/NormalBasis.lean (hunk 1 above)
Comment (dagurtomas) [reply Mathlib/FieldTheory/Galois/NormalBasis.lean:32]: Ok, apparently this is fine!

**Comment by dagurtomas** [comment]
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
